US08541587B2
Step 4: N-{1-[4′-(4-Amino-3-methyl-isoxazol-5-yl)-biphenyl-4-yl]-cyclopropanecarbonyl}-methanesulfonamide:
{5-[4′-(1-Methanesulfonylaminocarbonyl-cyclopropyl)-biphenyl-4-yl]-3-methyl-isoxazol-4-yl}-carbamic acid tert-butyl ester (0.25 g, 0.49 mmol)) in CH2Cl2 (2 mL) and TFA (2 mL) was stirred overnight then poured into EtOAc/NaHCO3 (aq). The organic layer was concentrated to yield the title compound.

reactant | {5-[4′-(1-Methanesulfonylaminocarbonyl-cyclopropyl)-biphenyl-4-yl]-3-methyl-isoxazol-4-yl}-carbamic acid tert-butyl ester | 0.49 mmol, 0.25 g | C(C)(C)(C)OC(NC=1C(=NOC1C1=CC=C(C=C1)C1=CC=C(C=C1)C1(CC1)C(=O)NS(=O)(=O)C)C)=O | C26H29N3O6S
reactant | TFA | 2 mL | C(=O)(C(F)(F)F)O | C2HF3O2
reactant | EtOAc NaHCO3 | CCOC(=O)C.C(=O)(O)[O-].[Na+]
solvent | CH2Cl2 | 2 mL | C(Cl)Cl | CH2Cl2
product | N-{1-[4′-(4-Amino-3-methyl-isoxazol-5-yl)-biphenyl-4-yl]-cyclopropanecarbonyl}-methanesulfonamide | NC=1C(=NOC1C1=CC=C(C=C1)C1=CC=C(C=C1)C1(CC1)C(=O)NS(=O)(=O)C)C | C21H21N3O4S
